US04021562
2-Amino-4-(1-piperidinyl)-6-[(1-piperidinylcarbonyl)-amino]pyridine 1-oxide (5.37 g., 0.017 mole) is dissolved in 100 ml. of 3N hydrochloric acid. After stirring the acid mixture for 0.5 hr. at room temperature, the mixture is cooled and neutralized with 50% sodium hydroxide affording a solid. The solid is collected, washed with water and air dried to provide 3.7 g. of crude oxadiazolone product, m.p. 283° C. (dec.). Further purification is carried out by dissolving the crude product in 300 ml. of methanol and treating the solution with activated charcoal. Concentration of the methanol solution to a volume of approximately 125 ml. and cooling affords 2.9 g. (73% yield) of 5-amino-7-(1-piperidinyl)-2H-[1,2,4]oxadiazolo[2,3-a]-pyridin-2-one, m.p. 246.5° C. (dec.) (corr.).

reactant | 2-Amino-4-(1-piperidinyl)-6-[(1-piperidinylcarbonyl)-amino]pyridine 1-oxide | 0.017 mole, 5.37 g | NC1=[N+](C(=CC(=C1)N1CCCCC1)NC(=O)N1CCCCC1)[O-] | C16H25N5O2
reactant | hydrochloric acid | 3N | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
reactant | oxadiazolone | O1N=NC(C1)=O | C2H2N2O2
product | 5-amino-7-(1-piperidinyl)-2H-[1,2,4]oxadiazolo[2,3-a]-pyridin-2-one | 73% yield | NC1=CC(=CC=2N1OC(N2)=O)N2CCCCC2 | C11H14N4O2
